US07402581B2
LiAlH4 (36 mg, 0.95 mmol) was added to ether (5 mL) at 0° C. under nitrogen. (2S)-N-Ethyl-2-(4-fluorophenyl)pent-4-enamide (140 mg, 0.63 mmol), dissolved in ether (2 mL) was added and the mixture was stirred overnight at room temperature. Water (0.04 mL) was added followed by an aqueous solution of NaOH (0.16 mL, 1M) and the mixture stirred for 30 min. Celite®, MgSO4 and CH2Cl2 was added and the solid material removed by filtration. The solvent was removed by evaporation and there was obtained 0.13 g (100%) of (2S)-N-ethyl-2-(4-fluorophenyl)pent-4-en-1-amine. 1H NMR (500 MHz, CDCl3): 1.0 (m, 3H), 2.2-2.9 (m, 5H), 3.2-3.4 (m, 2H), 4.9-5.1 (m, 2H), 5.6-5.7 (m, 1H), 7.0-7.4 (m, 4H). LCMS: m/z 208 (M+1)+.

reactant | LiAlH4 | 0.95 mmol, 36 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (2S)-N-Ethyl-2-(4-fluorophenyl)pent-4-enamide | 0.63 mmol, 140 mg | C(C)NC([C@@H](CC=C)C1=CC=C(C=C1)F)=O | C13H16FNO
reactant | NaOH | 1M, 0.16 mL | [OH-].[Na+]
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | ether | 2 mL | CCOCC | C4H10O
solvent | ether | 5 mL | CCOCC | C4H10O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | Water | 0.04 mL | O | H2O
product | (2S)-N-ethyl-2-(4-fluorophenyl)pent-4-en-1-amine | 0.13 g, 100% | C(C)NC[C@@H](CC=C)C1=CC=C(C=C1)F | C13H18FN
